US06787534B2
3-Nitrophenethylamine
In ethanol (150 ml) was suspended N-(3-nitrophenethyl)phthalimide obtained in Preparation Example 26. To the mixture was added hydrazine (5.7 ml), followed by heating under reflux for 1 hour. Though the reaction mixture was once completely dissolved, crystals again precipitated. The crystals were filtered off and washed with cooled ethanol. Then, the solvent was evaporated, to give the title compound (5.559 g, 99%) as a yellow oil.

reactant | N-(3-nitrophenethyl)phthalimide | [N+](=O)([O-])C=1C=C(CCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C16H12N2O4
reactant | hydrazine | 5.7 ml | NN | H4N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-Nitrophenethylamine | 5.559 g, 99% | [N+](=O)([O-])C=1C=C(CCN)C=CC1 | C8H10N2O2
